US06162826
3 g (12.5 mmol) of methyl (1R,4aS,7aS)-7-hydroxymethyl-1-methoxy-1,4a,5,7a-tetrahydrocyclopenta[c]pyran4-carboxylate was dissoved in 50 ml of dimethylformamide and 1.9 ml (13.8 mmol) of triethylamine was added thereto under nitrogen atmosphere. The reaction solution was stirred for one hour and then 2.07 g (13.8 mmol) of t-butyldimethylsilylchloride dissolved in 10 ml of dimethylformamide was added dropwise thereto. After stirring for 3 hours, 1N-aqueous hydrochloric acid solution was added in order to stop the reaction. Organic layer was extracted by the addition of diethylether and then it was washed with saturated aqueous sodium bicarbonate solution and saturated saline solution. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated to obtain 4.16 g (Yield 94%) of methyl (1R,4aS,7aS)-7-(t-butyldimethylsilyloxymethyl)-1 -methoxy-1,4a,5,7a-tetrahydrocyclo penta[c]pyran-4-carboxylate as a colorless oil.

reactant | methyl (1R,4aS,7aS)-7-hydroxymethyl-1-methoxy-1,4a,5,7a-tetrahydrocyclopenta[c]pyran4-carboxylate | 12.5 mmol, 3 g | OCC1=CC[C@H]2[C@@H]1[C@@H](OC=C2C(=O)OC)OC | C12H16O5
reactant | triethylamine | 13.8 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilylchloride | 13.8 mmol, 2.07 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl (1R,4aS,7aS)-7-(t-butyldimethylsilyloxymethyl)-1 -methoxy-1,4a,5,7a-tetrahydrocyclo penta[c]pyran-4-carboxylate | 4.16 g, Yield 94% | [Si](C)(C)(C(C)(C)C)OCC1=CC[C@H]2[C@@H]1[C@@H](OC=C2C(=O)OC)OC | C18H30O5Si
